US07371743B2
(d) 3-chloro-4-(tetrahydro-pyrimidin-2-on-1-yl)-benzoic acid
350 mg (1.49 mmol) 3-chloro-4-(tetrahydro-pyrimidin-2-on-1-yl)-benzonitrile are suspended in 5 ml of ethanol and combined with 2.0 ml of 10-molar aqueous sodium hydroxide solution. The mixture is stirred for one hour at 100° C. and then evaporated down i. vac. The aqueous residue is combined with ice, acidified with acetic acid and extracted with ethyl acetate. The combined organic phases are washed with water and sat. sodium chloride solution, dried over magnesium sulphate and evaporated down i. vac. The aqueous phase is acidified with 6-molar hydrochloric acid, extracted 5 times with ethyl acetate, the combined organic phases are washed with sat. sodium chloride solution, dried over magnesium sulphate and evaporated down i. vac.

reactant | 3-chloro-4-(tetrahydro-pyrimidin-2-on-1-yl)-benzonitrile | 1.49 mmol, 350 mg | ClC=1C=C(C#N)C=CC1N1C(NCCC1)=O | C11H10ClN3O
reactant | sodium hydroxide | 10-molar, 2.0 ml | [OH-].[Na+]
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 3-chloro-4-(tetrahydro-pyrimidin-2-on-1-yl)-benzoic acid | ClC=1C=C(C(=O)O)C=CC1N1C(NCCC1)=O | C11H11ClN2O3
